US07105544B2
N-(3-{4-[3-(ACETYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)-1-(4-CHLOROPHENYL)CYCLOHEXANECARBOXAMIDE
Example 75 was prepared from 1-(4-chlorophenyl)cyclohexanecarboxylic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}acetamide according to the procedures described in Scheme 10: 1H NMR (400 MHz, CDCl3) δ 7.47 (s, 1H), 7.44 (s, 1H), 7.40–7.37 (m, 2H), 7.32–7.25 (m, 4H), 6.96 (d, 1H, J=7.2 Hz), 6.81 (br s, 1H), 3.30 (dd, 2H, J=5.6, 11.6 Hz), 2.94 (d, 2H, J=12.4 Hz), 2.49 (m, 1H), 2.34 (t, 4H, J=6.4 Hz), 2.20 (s, 3H), 1.99–1.81 (m, 6H), 1.72–1.55 (m, 10H); ESMS m/e: 496.2 (M+H)+.

reactant | 1-(4-chlorophenyl)cyclohexanecarboxylic acid | ClC1=CC=C(C=C1)C1(CCCCC1)C(=O)O | C13H15ClO2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}acetamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C)=O | C16H25N3O
product | N-(3-{4-[3-(ACETYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)-1-(4-CHLOROPHENYL)CYCLOHEXANECARBOXAMIDE | C(C)(=O)NC=1C=C(C=CC1)C1CCN(CC1)CCCNC(=O)C1(CCCCC1)C1=CC=C(C=C1)Cl | C29H38ClN3O2
